US07160902B2
a) (4-Nitro-phenylamino)-acetic acid
To a suspension of 4-nitroaniline (13.8 g, 100 mmol) in water (300 mL) was added chloroacetic acid (18.9 g, 200 mmol). The reaction mixture was refluxed overnight and cooled to rt. The title compound was collected by filtration, washed with water and a mixture of hexane and ether (1:1) and dried in vacuo to yield 14.6 g (74%). 1H NMR (400 MHz, DMSO-d6) δ: 12.83 (s, 1H), 8.00 (d, 2H), 7.45 (t, 1H), 6.65 (d, 2H), 4.00 (d, 2H).

reactant | 4-nitroaniline | 100 mmol, 13.8 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | chloroacetic acid | 200 mmol, 18.9 g | ClCC(=O)O | C2H3ClO2
solvent | water | 300 mL | O | H2O
product | (4-Nitro-phenylamino)-acetic acid | [N+](=O)([O-])C1=CC=C(C=C1)NCC(=O)O | C8H8N2O4
